US09085576B2
Step 11: tert-butyl((1R,5S,6R)-5-(5-amino-2-fluorophenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-yl)carbamate (16i-B)
To a mixture of tert-butyl((1R,5S,6R)-5-(5-bromo-2-fluorophenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-yl)carbamate (16h-B, 1.47 g, 3.38 mmol), copper(I) iodide (0.139 g, 0.730 mmol), (+)-sodium 1-ascorbate (0.131 g, 0.661 mmol), and sodium azide (0.688 g, 10.6 mmol) were added EtOH (4.6 mL) and water (2.3 mL). The reaction mixture was purged with Nitrogen for 10 min, followed by the addition of (1R,2R)-(−)-N,N″-dimethylcyclohexane-1,2-diamine (0.110 mL, 0.698 mmol). The reaction mixture was heated to 70° C. for 1.5 h and cooled to RT. The reaction mixture was poured into 10:1 saturated NH4Cl/ammonium hydroxide, and diluted with EtOAc. The aqueous phase was extracted with EtOAc (2×) and the combined organic extracts were washed with brine and dried over MgSO4. The filtrate was concentrated under reduced pressure to give a solid, which was dissolved in THF (12 mL) and water (4 mL). A solution of trimethyl phosphine (1.0 M in THF, 3.40 mL, 3.40 mmol) was added and the reaction mixture was stirred at RT for 15 min. The reaction mixture was diluted with EtOAc and water, the aqueous phase was separated and extracted with EtOAc. The combined organic extracts were washed with brine and dried over MgSO4. The filtrate was concentrated under reduced pressure and the residue was purified by flash column chromatography on silica gel (20% to 70% EtOAc in heptane) to give the title compound (1.03 g, 2.77 mmol, 82% yield) as a white solid. MS m/z=372.0 [M+H]+. Calculated for C17H20F3N3O3 371.1.

reactant | tert-butyl((1R,5S,6R)-5-(5-bromo-2-fluorophenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-yl)carbamate | 3.38 mmol, 1.47 g | C(C)(C)(C)OC(NC=1O[C@@H]2C[C@@H]2[C@@](N1)(C(F)F)C1=C(C=CC(=C1)Br)F)=O | C17H18BrF3N2O3
reactant | sodium azide | 10.6 mmol, 0.688 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl ammonium hydroxide | [NH4+].[Cl-].[OH-].[NH4+]
reactant | trimethyl phosphine | 3.40 mmol, 1.0 M, 3.40 mL | CP(C)C | C3H9P
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
catalyst | copper(I) iodide | 0.730 mmol, 0.139 g | [Cu]I
solvent | water | 2.3 mL | O | H2O
solvent | EtOH | 4.6 mL | CCO | C2H6O
product | tert-butyl((1R,5S,6R)-5-(5-amino-2-fluorophenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-yl)carbamate | 2.77 mmol, 1.03 g, 82% yield | C(C)(C)(C)OC(NC=1O[C@@H]2C[C@@H]2[C@@](N1)(C(F)F)C1=C(C=CC(=C1)N)F)=O | C17H20F3N3O3
